US07829560B2
N-(4-{[2-(cyclohexylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide (Compound B371).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and cyclohexylamine according to conditions described in general procedure C. Mp: 118-120° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.00-1.23 (m, 6 H), 1.60-1.74 (m, 10 H), 3.10-3.29 (m, 5 H), 6.10-6.30 (m, 1 H), 6.97-7.00 (m, 2 H), 7.17 (d, J=8.8 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.55-7.62 (m, 3 H), 7.83 (d, J=8.0 Hz, 1 H), 7.99 (d, J=8.0 Hz, 1 H), 8.21 (s, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-(4-{[2-(cyclohexylamino)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-piperidin-1-ylbenzamide | C1(CCCCC1)NC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C32H34FN5O2
